US04975460
To 0.735 g of methyl (2-acetylaminoindan-5-yl)oxyacetate are added 6 ml of aqueous 10% hydrochloric acid solution, and the mixture is refluxed under stirring for 13 hours. The reaction mixture is evaporated to remove solvent and 10 ml of methanol are added to the residue. The mixture is refluxed for 1.5 hours and evaporated to remove methanol. The residue is recrystallized from methanol-diethyl ether to give 0.655 g of methyl (2-aminoindan-5-yl)oxyacetate hydrochloride as yellow prisms. Yield: 91%

reactant | methyl (2-acetylaminoindan-5-yl)oxyacetate | 0.735 g | C(C)(=O)NC1CC2=CC=C(C=C2C1)OCC(=O)OC | C14H17NO4
reactant | hydrochloric acid | Cl | ClH
product | methyl (2-aminoindan-5-yl)oxyacetate hydrochloride | 0.655 g, Yield: 91% | Cl.NC1CC2=CC=C(C=C2C1)OCC(=O)OC | InChI=1S/C12H15NO3.ClH/c1-15-12(14)7-16-11-3-2-8-4-10(13)5-9(8)6-11;/h2-3,6,10H,4-5,7,13H2,1H3;1H
